US05710139
2-Chloro-3-diethylphosphonomethyl-6,7-dimethylquinoline (0.40 g, 1.17 mmol), prepared as described in Example 4 was dissolved in 2-butanone (20 ml) and treated with sodium iodide (0.39 g, 2.6 mmol) and p-toluenesulfonic acid (0.11 g, 0.58 mmol). The mixture was refluxed for 10 hours. Ethyl acetate and saturated sodium hydrogen carbonate were added. The organic phase was separated and filtered through a pad of silica gel. Evaporation of solvents gave 0.28 g of 3-diethylphosphonomethyl-6,7-dimethyl-2-iodoquinoline.

reactant | 2-Chloro-3-diethylphosphonomethyl-6,7-dimethylquinoline | 1.17 mmol, 0.40 g | ClC1=NC2=CC(=C(C=C2C=C1CP(=O)(OCC)OCC)C)C | C16H21ClNO3P
reactant | sodium iodide | 2.6 mmol, 0.39 g | [I-].[Na+]
reactant | p-toluenesulfonic acid | 0.58 mmol, 0.11 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-diethylphosphonomethyl-6,7-dimethyl-2-iodoquinoline | 0.28 g | C(C)OP(=O)(OCC)CC=1C(=NC2=CC(=C(C=C2C1)C)C)I | C16H21INO3P
